US06548474B1
A solution of the compound of Embodiment 4 (2-cyclopent-1-enyl-2-(2-methylprop-2-enyl)cyclopentan-1-one, 5.0 g, 0.02 moles) in ethyl acetate/ethanol (9:1, 100 mL) was added to a Parr reaction bottle. To this vessel was added 5% Pd—C (0.5 g) in one portion. The reaction vessel was placed in a Parr hydrogenation apparatus and H2 gas (40 psi) was introduced. The apparatus was agitated for 2 hours, and it was determined by TLC and GC that the reaction was complete. The resulting organic slurry was filtered through celite and concentrated. The pale yellow oil was distilled under vacuum to give 2-cyclopentyl-2-(2-methylpropyl)-cyclopentan-1-one (4.24 g, 83.1% yield).

reactant | 2-cyclopent-1-enyl-2-(2-methylprop-2-enyl)cyclopentan-1-one | C1(=CCCC1)C1(C(CCC1)=O)CC(=C)C | C14H20O
solvent | ethyl acetate ethanol | 100 mL | C(C)(=O)OCC.C(C)O
catalyst | Pd—C | 0.5 g | [Pd] | Pd
product | 2-cyclopentyl-2-(2-methylpropyl)-cyclopentan-1-one | 4.24 g, 83.1% yield | C1(CCCC1)C1(C(CCC1)=O)CC(C)C | C14H24O
